US08003647B2
6-Methoxy-5-methylindole
To a solution of (4-methoxy-5-methyl-2-nitrophenyl)acetonitrile (0.24 g) in a mixed solvent of tetrahydrofuran (2 mL) and n-butanol (2 mL) was added palladium-carbon powder (0.043 g) under an argon atmosphere and this mixture was stirred at 60° C. under a hydrogen atmosphere for 36 hours. The insoluble material was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.13 g).

reactant | (4-methoxy-5-methyl-2-nitrophenyl)acetonitrile | 0.24 g | COC1=CC(=C(C=C1C)CC#N)[N+](=O)[O-] | C10H10N2O3
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.043 g | [C].[Pd]
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 6-Methoxy-5-methylindole | 0.13 g | COC1=C(C=C2C=CNC2=C1)C | C10H11NO
